US08802697B2
Synthesis of 1-(3-(7-(2-aminophenyl)imidazo[1,2-a]pyridin-3-yl)phenyl)-3-(2,2,2-trifluoroethyl)urea
To a mixture of 1-(3-(7-chloroimidazo[1,2-a]pyridin-3-yl)phenyl)-3-(2,2,2-trifluoroethyl)urea (20 mg, 0.052 mmol), 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (15 mg, 0.066 mmol) and cesium carbonate (51 mg, 0.156 mmol) in THF/H2O mixture (2/1, 0.75 ml) was added Pd(PtBu3)2 (3 mg, 0.005 mmol). The vial was degassed for 5 minutes then capped and heated to 125° C. for 20 minutes in a microwave. After cooling to ambient temperature, the reaction mixture was filtered through a celite pad and purified via flash chromatography (0-10% MeOH/DCM gradient containing 10% NH4OH) to yield the title compound (20 mg, 90% yield). MS (ES+) C22H18F3N5O requires: 425. found: 426 [M+H]+.

reactant | 1-(3-(7-chloroimidazo[1,2-a]pyridin-3-yl)phenyl)-3-(2,2,2-trifluoroethyl)urea | 0.052 mmol, 20 mg | ClC1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C16H12ClF3N4O
reactant | 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 0.066 mmol, 15 mg | CC1(OB(OC1(C)C)C1=C(N)C=CC=C1)C | C12H18BNO2
reactant | cesium carbonate | 0.156 mmol, 51 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF H2O | 0.75 ml | C1CCOC1.O
catalyst | Pd(PtBu3)2 | 0.005 mmol, 3 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 1-(3-(7-(2-aminophenyl)imidazo[1,2-a]pyridin-3-yl)phenyl)-3-(2,2,2-trifluoroethyl)urea | 20 mg, 90% yield | NC1=C(C=CC=C1)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C22H18F3N5O
